US09388161B2
(S)-2-((1-acetyl-2-methyl-6-(1-(1-methylpiperidin-4-yl)-1H-pyrazol-4-yl)-1,2,3,4-tetrahydroquinolin-5-yl)oxy)benzonitrile (I-246)
A mixture of (S)-2-((l-acetyl-6-bromo-2-methyl-1,2,3,4-tetrahydroquinolin-5-yl)oxy)benzonitrile (0.017 g, 0.044 mmol), 1-methyl-4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)piperidine (0.030 g, 0.101 mmol), XPhos Precatalyst 2nd Generation (3.47 mg, 4.41 μmol), and cesium carbonate (0.058 g, 0.177 mmol) in dioxane (2.0 mL) and water (0.400 mL) was heated at 100° C. for 16 h. The reaction mixture was filtered through Celite and concentrated to afford an orange oil. This material was purified via column chromatography on silica gel (Biotage 25 g column, gradient elution with 0-50% (90:10:1, dichloromethane/methanol/ammonium hydroxide)-dichloromethane) to afford (S)-2-(1-acetyl-2-methyl-6-(1-(1-methylpiperidin-4-yl)-1H-pyrazol-4-yl)-1,2,3,4-tetrahydroquinolin-5-yl)oxy)benzonitrile (0.017 g, 82%) as a white solid. 1H NMR (300 MHz, DMSO-d6) δ ppm 1.04 (d, J=7.04 Hz, 3H), 1.27-1.58 (m, 2H), 1.77-1.97 (m, 4H), 1.97-2.14 (m, 4H), 2.17 (s, 3H), 2.19 (s, 3H), 2.81 (br d, J=11.43 Hz, 2H), 3.90-4.17 (m, 1H), 4.62 (br s, 1H), 6.48 (br s, 1H), 7.14 (t, J=7.62 Hz, 1H), 7.39-7.56 (m, 2H), 7.61 (d, J=8.50 Hz, 1H), 7.72 (s, 1H), 7.89 (dd, J=7.77, 1.61 Hz, 1H), 8.01 (s, 1H). MS (ESI, pos. ion) m/z 470 [M+H]

reactant | (S)-2-((l-acetyl-6-bromo-2-methyl-1,2,3,4-tetrahydroquinolin-5-yl)oxy)benzonitrile | 0.044 mmol, 0.017 g | C(C)(=O)N1[C@H](CCC2=C(C(=CC=C12)Br)OC1=C(C#N)C=CC=C1)C | C19H17BrN2O2
reactant | 1-methyl-4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)piperidine | 0.101 mmol, 0.030 g | CN1CCC(CC1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C15H26BN3O2
reactant | cesium carbonate | 0.177 mmol, 0.058 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | chloro(2-dicyclohexylphosphino-2′,4′,6′-tri-i-propyl-1,1′-biphenyl)(2′-amino-1,1′-biphenyl-2-yl) palladium(II) | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=CC(=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C.C1=CC=C([C-]=C1)C2=CC=CC=C2N.Cl[Pd+]
solvent | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.400 mL | O | H2O
product | (S)-2-((1-acetyl-2-methyl-6-(1-(1-methylpiperidin-4-yl)-1H-pyrazol-4-yl)-1,2,3,4-tetrahydroquinolin-5-yl)oxy)benzonitrile | C(C)(=O)N1[C@H](CCC2=C(C(=CC=C12)C=1C=NN(C1)C1CCN(CC1)C)OC1=C(C#N)C=CC=C1)C | C28H31N5O2
